US09227976B2
4-chloro-1-[(3-methyloxetan-3-yl)methyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine (Compound IIf)
Compound IIf was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and (3-methyloxetan-3-yl)methanol following the general procedure for the Mitsunobu reaction.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | (3-methyloxetan-3-yl)methanol | CC1(COC1)CO | C5H10O2
product | 4-chloro-1-[(3-methyloxetan-3-yl)methyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC2(COC2)C | C22H19ClN4O
